US04939253
(E) (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid. phenylmethyl ester
(3S-trans)-1-Hydroxy-3-[(t-butyloxycarbonyl)-amino]-4-methyl-2-azetidinone (21.6g) was dissolved in 300ml of dimethylformamide, 25.2g of bromoacetic acid. phenylmethyl ester was added. 17 ml of triethylamine was added. and the mixture was stirred for 3 hours at room temperature. The resulting precipitate was filtered off. The filtrate evaporated in vacuo, the residue dissolved in ethyl acetate and the solution treated with water, the pH of which was adjusted to 7. The organic phase was washed twice with water, dried (MgSO4) and evaporated to yield 33.4g of the title compound as an oil.

reactant | (3S-trans)-1-Hydroxy-3-[(t-butyloxycarbonyl)-amino]-4-methyl-2-azetidinone | 21.6g | ON1C([C@H]([C@@H]1C)NC(=O)OC(C)(C)C)=O | C9H16N2O4
reactant | bromoacetic acid. phenylmethyl ester | 25.2g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | triethylamine | 17 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 300ml | CN(C=O)C | C3H7NO
product | (3S-trans)-[[3-[(t-Butyloxycarbonyl)amino]-4-methyl-2-oxo-1-azetidinyl]oxy]acetic acid. phenylmethyl ester | 33.4g | C(C)(C)(C)OC(=O)N[C@@H]1C(N([C@H]1C)OCC(=O)OCC1=CC=CC=C1)=O | C18H24N2O6
